US03994890
3-Phenyl-5-fluoroindazole (2.12 g), paraformaldehyde (0.33 g), piperidine (1 g) and 1N aqueous sodium hydroxide solution (1 ml) were added to ethanol (30 ml) followed by heating under reflux for 3 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in benzene, washed with water, dried over sodium sulfate and concentrated under reduced pressure to obtain 1.9 g of 1-piperidinomethyl-3-phenyl-5-fluoroindazole having a melting point between 82°-84° C after recrystallization from methanol.

reactant | 3-Phenyl-5-fluoroindazole | 2.12 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)F | C13H9FN2
reactant | paraformaldehyde | 0.33 g | C=O | CH2O
reactant | piperidine | 1 g | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-piperidinomethyl-3-phenyl-5-fluoroindazole | 1.9 g | N1(CCCCC1)CN1N=C(C2=CC(=CC=C12)F)C1=CC=CC=C1 | C19H20FN3
